US05326760
(a) 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(1H-imidazol-2-ylmethy)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester
50 mg of N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine, prepared as in Example L, was added to 40 mg N-hydroxysuccinimide in 5 mL DMF. To the mixture was added 27 mg of (1H-Imidazo-2-ylmeth yl)amine followed by 1 mL triethylamine. The mixture was stirred for 18 h, filtered through celite, and the solvents were removed by evaporation. The resulting residue was purified by reverse phase H.P.L.C. to afford the title compound as a white solid; 44 mg.

reactant | N-[(R)-1-[(1,1-dimethylethoxy)carbonyl]-3-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)propyl]-L-leucine | 50 mg | CC(C)(OC(=O)[C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)O)C | C26H32N2O6
reactant | N-hydroxysuccinimide | 40 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(1,3-Dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)-2-(R)-[[3-methyl-1-(S)-[[(1H-imidazol-2-ylmethy)amino]carbonyl]butyl]amino]-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)N[C@@H](CC(C)C)C(=O)NCC=3NC=CN3)=O | C30H37N5O5
